Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[H:3].[O:1]=[C:2][C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],4.027216169090003
[H:1][O:2][C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:13],4.60738129753
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-2.1583298016900003
[H:10].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-1.95024742
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],2.72674329616
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],2.29448446209
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:7].[O:1]1/[C:2](=[C:5](/[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:3]1[H:4],2.82211882017
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-5.40252775357
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.412055239
[C:8]([H:9])([H:10])([C:11])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-3.70768403525
[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-6.46969321905
[H:1][C:2][O:3][C:4]#[C:5][C:7]([O:6])([H:8])[H:9]>>[H:1][C:2][O:3]/[C:4]=[C:5]1\[O:6][C:7]1([H:8])[H:9],-0.1159134028599999
[H:4].[O:1]=[C:2]([H:3])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.563323382306
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.55213609148
[C:2](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:5]([H:3])=[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.09359102015
[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[O:10]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[O:10]1,0.68417332685
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],2.70728961971
[C:1].[C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3][O:4][C:5]([H:6])[H:7],-6.03172058452
[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],-3.96483754855
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[O:12]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11][O:12]1,2.56422279786
[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.41898520772
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],2.85909858243
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.62439601099
[H:1][C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],3.9982382084699983
[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],5.98574879388
[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.05303051023
[C:1]#[C:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.13549998636
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],1.48246865988
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.44720075072
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:8]#[C:7][C:6]([H:9])([H:10])[C:11]([H:12])[H:13],-0.00900133785035
